US05484929
passing a vaporized feed stream including 3-cyanopyridine, chlorine and an inert gas into a first reaction zone having a hot spot at a temperature of about 350° C. to about 420° C., and subsequently passing the stream through a second reaction zone having a temperature of about 200° C. to about 340° C., so as to produce 2-chloro-5-cyanopyridine.

reactant | 3-cyanopyridine | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | chlorine | ClCl | Cl2
product | 2-chloro-5-cyanopyridine | ClC1=NC=C(C=C1)C#N | C6H3ClN2
